US06552017B1
7-fluoro-2,3,4,5-tetrahydro-1,5-benzothiazepine (423 mg, 2.3 mmol) was dissolved in acetic acid (1.15 mL)at 0° C. in an ice bath. 2.7 M aqueous sodium nitrite (1 mL) was added and this was stirred over night. Water was added (100 mL) and extracted with dichloromethane (3×50 mL), the organics were combined and concentrated to give 7-fluoro-5-nitroso-2,3,4,5-tetrahydro-1,5-benzothiazepine (449 mg, 92%). 1H NMR (CDCl3, 300 MHz): δ 7.43 (t, 1H, J=7.1 Hz), 7.30 (dd, 1H, J=9.1 Hz, J=9.2 MHz), 7.26-7.00 (m, 1H), 4.18 (t, 2H, J=5.8 Hz), 2.86 (t, 2H, J=7.2 Hz), 2.17-2.04 (m, 2H) ppm.

reactant | 7-fluoro-2,3,4,5-tetrahydro-1,5-benzothiazepine | 2.3 mmol, 423 mg | FC=1C=CC2=C(NCCCS2)C1 | C9H10FNS
reactant | sodium nitrite | 2.7 M, 1 mL | N(=O)[O-].[Na+]
reactant | Water | O | H2O
solvent | acetic acid | 1.15 mL | C(C)(=O)O | C2H4O2
product | 7-fluoro-5-nitroso-2,3,4,5-tetrahydro-1,5-benzothiazepine | 449 mg, 92% | FC=1C=CC2=C(N(CCCS2)N=O)C1 | C9H9FN2OS
